US07427612B2
(2-Chloro-5-methanesulfonyl-phenyl)-[4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone
To a solution of 2-Chloro-5-methanesulfonyl-benzoic acid (102 mg, 0.43 mmol) in dimethylformamide (20 ml) were successively added TBTU (153 mg, 0.48 mmol), N-ethyldiisopropylamine (0.28 ml, 2.17 mmol) and 1-(4-trifluromethylphenyl)piperazine (ABCR F07741NB, [30459-17-7], 100 mg, 0.43 mmol). The reaction was then stirred at room temperature for two hours, then concentrated in vacuo and purified by column chromatography (SiO2, 50 g, heptane/ethylacetate=0 to 100%), to give the title compound as a colorless gum (170 mg, 0.38 mmol). MS (m/e): 464.3 (M+NH4+, 100%)

reactant | 2-Chloro-5-methanesulfonyl-benzoic acid | 0.43 mmol, 102 mg | ClC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)C | C8H7ClO4S
reactant | TBTU | 0.48 mmol, 153 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N-ethyldiisopropylamine | 2.17 mmol, 0.28 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 1-(4-trifluromethylphenyl)piperazine | 0.43 mmol, 100 mg | FC(C1=CC=C(C=C1)N1CCNCC1)(F)F | C11H13F3N2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | (2-Chloro-5-methanesulfonyl-phenyl)-[4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone | 0.38 mmol, 170 mg | ClC1=C(C=C(C=C1)S(=O)(=O)C)C(=O)N1CCN(CC1)C1=CC=C(C=C1)C(F)(F)F | C19H18ClF3N2O3S
